US09163003B2
2-{(S)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one
To a solution of (R)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one (0.79 mmol, 250 mg) and 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one (0.87 mmol, 174 mg) in THF (10 mL) was added sodium hydride (60%, 2.77 mmol, 111 mg) and heated to 70° C. for 1 hour. The reaction was allowed to cool to ambient temperature, diluted with 100 mL of ether, and the resulting solid in suspension was filtered and dried under vacuum provided the title compound as an off-white solid (300 mg). Chiral resolution of 2-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one (300 mg) via chiral SFC chromatography on a AS-H column (60 g/min, 21×250 mm) eluting 40% IPA/0.2% DEA/CO2 (v/v) afforded 77 mg of pure material. HRMS calculated for C26H32N4O5=480.5687. found (ESI, [M+H]+) 481.2455. 1H NMR (400 MHz, MeOD) δ ppm 1.69-1.90 (m, 4H) 2.10-2.20 (m, 1H) 2.20-2.31 (m, 4H) 2.48-2.58 (m, 1H) 2.59-2.65 (m, 2H) 2.77-2.88 (m, 1H) 2.90-3.06 (m, 1H) 3.10-3.20 (m, 1H) 3.32-3.42 (m, 3H) 3.46-3.54 (m, 2H) 3.63 (t, J=8.53 Hz, 1H) 3.88-3.94 (m, 5H) 4.39 (s, 2H) 4.47 (s, 2H) 6.99 (d, J=8.53 Hz, 1H) 7.77 (s, 1H) 7.87 (dd, J=8.53, 2.01 Hz, 1H), analytical RP-HPLC (Novapak 150×3.9 mm C18 column: mobile phase: 10-90% acetonitrile/water with 0.1% TFA, at 2 mL/min over 5 min.) retention time=2.731 min.

reactant | (R)-3-[4-(4-methoxy-3-methyl-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one | 0.79 mmol, 250 mg | COC1=C(C=C(C(=O)C2CCN(CC2)[C@H]2C(NCC2)=O)C=C1)C | C18H24N2O3
reactant | 2-chloromethyl-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one | 0.87 mmol, 174 mg | ClCC=1NC(C2=C(N1)CCOC2)=O | C8H9ClN2O2
reactant | sodium hydride | 2.77 mmol, 111 mg | [H-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ether | 100 mL | CCOCC | C4H10O
product | 2-{(S)-3-[4-(4-Methoxy-3-methyl-benzoyl)-piperidin-1-yl]-2-oxo-pyrrolidin-1-ylmethyl}-3,5,7,8-tetrahydro-pyrano[4,3-d]pyrimidin-4-one | 300 mg | COC1=C(C=C(C(=O)C2CCN(CC2)[C@@H]2C(N(CC2)CC=2NC(C3=C(N2)CCOC3)=O)=O)C=C1)C | C26H32N4O5
